US05371226
A mixture of 2.52 g of 1-p-aminobenzyl-1,2,3,4-tetrahydro-2-oxoquinoline, 3 ml of triethylamine, 0.5 g of 4-dimethylaminopyridine and 120 ml of methylene chloride is cooled to 5° and a solutoin of 2.88 g of o-trifluoromethanesulfonamidobenzoyl chloride in 20 ml of methylene chloride is added dropwise. The mixture is stirred for a further 16 hours at 20°, evaporated and worked up in conventional manner to give 1,2,3,4-tetrahydro-2-oxo-1-[4-(2-trifluoromethanesulfonamidobenzamido)benzyl]quinoline.

reactant | 1-p-aminobenzyl-1,2,3,4-tetrahydro-2-oxoquinoline | 2.52 g | NC1=CC=C(CN2C(CCC3=CC=CC=C23)=O)C=C1 | C16H16N2O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | o-trifluoromethanesulfonamidobenzoyl chloride | 2.88 g | FC(S(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H5ClF3NO3S
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-tetrahydro-2-oxo-1-[4-(2-trifluoromethanesulfonamidobenzamido)benzyl]quinoline | O=C1N(C2=CC=CC=C2CC1)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)=O | C24H20F3N3O4S
